US07378415B2
To a solution of α-cyanoacetic acid (0.085 g., 1.0 mmol) in 2 mL dichloromethane was added oxalyl chloride (0.262 mL, 3.0 mmol) and one drop N,N-dimethylformamide (˜0.025 mL, cat). The solution is stirred for one hour, during which offgassing is observed, and concentrated in vacuo. The residue was dissolved in 4 mL dichloromethane and this solution was added dropwise to a solution of 6-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (0.275 g., 1.0 mmol) and triethylamine (0.152 mL, 1.1 mmol) in 3 mL dichloromethane at 0° C. The resulting solution was stirred for 2 hours, concentrated in vacuo and purified by flash chromatography to give 0.146 g (43%) of 3-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-oxo-propionitrile. MS: 343 (M+H)+.

reactant | α-cyanoacetic acid | 1.0 mmol, 0.085 g | C(#N)CC(=O)O | C3H3NO2
reactant | oxalyl chloride | 3.0 mmol, 0.262 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 1.0 mmol, 0.275 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(NCCO2)C1 | C14H13NO3S
reactant | triethylamine | 1.1 mmol, 0.152 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-3-oxo-propionitrile | 0.146 g, 43% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)C(CC#N)=O)C1 | C17H14N2O4S
